US07153878B2
1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone
A mixture of 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl-]-ethanol (1.0 g, 3.48 mmol) and MnO2 (0.45 g, 5.22 mmol) in chloroform (30 mL) is heated to reflux, after 24 hrs, additional MnO2 (300 mg) is added and refluxed for another 9 hrs, the reaction mixture is filtered through celite. Concentration of filtrate gave the title compound (1.0 g).

reactant | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl-]-ethanol | 3.48 mmol, 1.0 g | CC=1N=C(SC1C(C)O)C1=CC=C(C=C1)C(F)(F)F | C13H12F3NOS
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 5.22 mmol, 0.45 g | O=[Mn]=O
catalyst | MnO2 | 300 mg | O=[Mn]=O
product | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanone | 1.0 g | CC=1N=C(SC1C(C)=O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NOS
